US08497368B2
(E)-2-Morpholino-N′-(1-(1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)ethylidene)acetohydrazide
The title compound was prepared in analogy to the synthesis of example 52 from 1-(1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)ethanone and 2-morpholinoaceto-hydrazide. The title compound was obtained as light yellow solid. 1H-NMR (400 MHz, DMSO-d6) δ ppm 9.45 (d, 1H), 8.90 (d, 1H), 8.36 (d, 1H), 8.01 (m, 2H), 7.83 (d, 1H), 7.53 (dd, 1H), 6.20 (s, 2H), 3.65 (d, 4H), 3.26 (s, 2H), 2.57 (d, 4H), 2.41 (s, 3H). LCMS (method B): [MH]+=446.2, tR=1.37 min.

reactant | 1-(1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)ethanone | N1=CC=CC2=CC(=CC=C12)CN1N=NC=2C1=NC(=CN2)C(C)=O | C16H12N6O
reactant | 2-morpholinoaceto-hydrazide | O1CCN(CC1)CC(=O)NN | C6H13N3O2
product | (E)-2-Morpholino-N′-(1-(1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)ethylidene)acetohydrazide | O1CCN(CC1)CC(=O)N/N=C(\C)/C1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2 | C22H23N9O2
